2165-01-08 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Started on Heparin drip and CIWA scale.  CIWA in mid-30s overnight,
   improved to [**11-21**] this AM.  Received total of 6 mg IV Ativan overnight.
   A fib with RVR versus flutter overnight to max 160s.  Received 5 IV
   dilt push x2 and metoprolol 5 IV x1 with good response.  Dilt drip
   weaned from 15 to 10 mg/hr.
   Fever to 100.5 this AM, BCx drawn, Levo/flagyl started.
   This AM, patient reports pain in his neck but otherwise without pain.
   Complains of mild fever and chills.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Diltiazem - [**2165-1-8**] 02:00 AM
   Lorazepam (Ativan) - [**2165-1-8**] 02:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-8**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 107 (107 - 129) bpm
   BP: 99/76(86) {99/49(65) - 128/76(114)} mmHg
   RR: 37 (21 - 46) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,021 mL
                                                                    911 mL
   PO:
             TF:
   IVF:
                                                                     21 mL
                                                                    911 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    580 mL
   Urine:
                                                                    100 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    121 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.45/38/185/21/3
   PaO2 / FiO2: 463
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, face mask/neb
   Cardiovascular: (S1: Normal), (S2: Normal), No murmur appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: intermittently), anterior exam
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person and place, Movement: Not assessed, Tone: Not
   assessed.  Tremulous with asterixis.
   Labs / Radiology
   164 K/uL
   12.9 g/dL
   160 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.1 mEq/L
   13 mg/dL
   97 mEq/L
   134 mEq/L
   38.4 %
   12.6 K/uL
        [image002.jpg]
                            [**2165-1-7**]  10:29 PM
                             [**2165-1-8**]  04:27 AM
   WBC
   12.6
   Hct
   38.4
   Plt
   164
   Cr
   0.7
   TCO2
   27
   Glucose
   160
   Other labs: PT / PTT / INR:14.4/100.6/1.3, ALT / AST:129/338, Alk Phos
   / T Bili:108/0.2, LDH:390 IU/L, Ca++:8.1 mg/dL, Mg++:1.3 mg/dL, PO4:2.2
   mg/dL
   Blood Cx pending
   CXR wet read:
   no evidence of pneumonia or pulmonary edema. RLL atelectasis better
   seen on
   subsequent chest CT
   CTA wet read:
   No PE, no dissection. RLL segmental bronchi not well seen, may be
   occluded
   due to secretions/mucus plug. RLL atelectasis/collapse spares superior
   segment. L basilar atelectasis. Posterior RUL (3:50) ill defined
   opacity -
   atelectasis vs infection.
   Assessment and Plan
   58 yo male with history of recent C5 spinous process fracture, atrial
   fibrillation, PEs, and tricuspid valve endocarditis admitted for a fib
   with RVR, respiratory distress and EtOH intoxication.
   .
   #.  ETOH intoxication/Polysubstance abuse:  Most likely resulted in
   aspiration event Monitor for signs of inability to protect airway.
   Currently, should not require CIWA, but will monitor.  Hold suboxone as
   unclear if the patient is taking as prescribed given tox screen
   negative for opiates and can complicate respiratory status.  Will
   encourage admission to detox facility on discharge.
   - Multivitamin/Thiamine/Folate in 1L D5W
   - CIWA scales Q2H with ativan
   #.  Respiratory Distress:  The patient has a history of prolonged
   hospitalization for respiratory distress following similar
   presentation, requiring intubation and ultimately tracheostomy.  Most
   likely the patient's cause for respiratory distress related to
   intoxication causing a possible aspiration event, in conjuction with
   oversedation from EtOH and benzo administration.  CXR also
    over sedation from ETOH intoxication, haldol, lorazepam and valium
   administration in addition to possible aspiration event.  Given the
   patient is afebrile, this is likely aspiration pneumonitis, but will
   monitor for fever.  The patient has received first dose antibiotics of
   ceftriaxone and levofloxacin in the ED.  The patient had a CTA which
   preliminarily was negative for PE, the patient has a history of PEs
   requiring tPA, is off anticoagulation, but is s/p IVC filter
   placement.  Given the current a/A gradient, will treat empirically for
   PE.  Also on the differential is CHF, flash pulmonary edema from A fib
   with RVR, however less likely given CXR findings.
   - Monitor O2 sats closely, wean to NC O2 as tolerated
   - Empiric treatment with heparin gtt
   - Avoid all sedating medications
   - F/U final read of CTA
   - Hold further antibiotics for now, if spikes will cover with
   levo/flagyl for possible aspiration and community acquired pneumonia
   (we will avoid clinda as history of c diff)
   .
   #.  Atrial Fibrillation:  Currently in sinus tachycardia.  Most likely
   was in rapid ventricular response secondary to increased catecholamine
   surge from either intoxication, infection or hypoxia.  Will treat
   underlying disorders as outlined.  Will treat with diltiazem drip
   initially.  Goal to get patient back on home regimen of 60mg PO QID.
   CHADS score is 2, however given history of PEs will start
   anticoagulation empirically until CTA results are final.
   - Monitor on telemetry
   - wean dilt drip as tolerated
   - start home regimen of metoprolol and dilt when able to take PO
   .
   .
   #.  Hepatitis:  Likely secondary to alcohol given AST to ALT ratio in
   addition to Hep C.  The patient has a tremor at baseline, but has
   preserved synthetic function.  Will avoid long acting benzos and other
   hepatotoxic medications.  Monitor for signs of decompensation.
   .
   #.  Hyperkalemia:  Initial K hemolyzed, repeat 4.1 with no EKG
   changes.  Will monitor [**Hospital1 **].
   .
   #.  History of Tricuspid Valve Endocarditis:  Currently afebrile, will
   send set of blood cultures as did not have sent in the ED prior to
   antibiotics.  If spikes will treat empirically and get TTE.
   .
   #.  History of C diff colitis:  Maintain precautions.  Monitor for
   diarrhea.
   .
   #   C5 spinous process fracture:  No acute issues.  Follow up final
   read of CT c spine.  Discuss plan with ortho spine in AM.
   .
   #.  Depression:  Continue citalopram.  Hold quetiapine for now as can
   worsen sedation.
   .
   FEN:  NPO for now given inability to protect airway, restart diet in AM
   if improved, replete lytes PRN
   .
   PPX:
   -DVT ppx with heparin gtt
   -Bowel regimen with colace and senna PRN
   -Pain management on hold given sedation
   .
   ACCESS: PIV's
   .
   CODE STATUS: Presumed full
   .
   EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1968**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8013**]
   .
   DISPOSITION:  [**Hospital Unit Name 4**] for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-1-8**] 04:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-01-08 09:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   EtoH Intoxication
   Altered Mental Status
   Atrial Fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with fever to 100.5--Levo/Flagyl started
   -SR and PAF seen across the night with transient increase in HR to 160.
   -Dilt gtt continued at 10
   -
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Diltiazem - [**2165-1-8**] 02:00 AM
   Lorazepam (Ativan) - [**2165-1-8**] 08:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, low grade 100.5
   Cardiovascular: Tachycardia
   Respiratory: Cough
   Gastrointestinal: No(t) Abdominal pain
   Psychiatric / Sleep: Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-1-8**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38
C (100.4
   HR: 102 (102 - 129) bpm
   BP: 120/76(84) {99/49(65) - 128/76(114)} mmHg
   RR: 38 (21 - 46) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,021 mL
                                                                  1,065 mL
   PO:
             TF:
   IVF:
                                                                     21 mL
                                                                  1,065 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    740 mL
   Urine:
                                                                    100 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    121 mL
                                                                    325 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.45/38/185/21/3
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.9 g/dL
   164 K/uL
   160 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.1 mEq/L
   13 mg/dL
   97 mEq/L
   134 mEq/L
   38.4 %
   12.6 K/uL
        [image002.jpg]
                            [**2165-1-7**]  10:29 PM
                             [**2165-1-8**]  04:27 AM
   WBC
   12.6
   Hct
   38.4
   Plt
   164
   Cr
   0.7
   TCO2
   27
   Glucose
   160
   Other labs: PT / PTT / INR:14.4/100.6/1.3, ALT / AST:129/338, Alk Phos
   / T Bili:108/0.2, LDH:390 IU/L, Ca++:8.1 mg/dL, Mg++:1.3 mg/dL, PO4:2.2
   mg/dL
   Fluid analysis / Other labs: Tox-EtOH 488
   Imaging: CXR-RLL opacity seen on CXR and CT
   Assessment and Plan
   58 yuo male with history of EtOH abuse and past history notable for
   A-Fib, previous respiratory failure complicated by PE and with
   anticoagulation trial and IVC filter in place.  Now he comes in after
   being found down at home and had ED course notable for hypoxemia.  He
   did have CTA without acute PE but with multifocal infiltrates.  During
   ED course patient had onset of atrial fibrillation requiring diltiazem
   gtt.  With multiple active issues patient to ICU for further care.  At
   admission patient treated with heparin for possible PE and ABX held to
   consider pneumonia based upon evolution.
   1)ALTERED MENTAL STATUS/ALCOHOL ABUSE-Patient with EtOH ingestion and
   benzo Rx in ED.  This most likely represents EtOH intoxication now
   complicated by evolution towards and management needed for withdrawl.
   He has relatively limited hypoxemia and this is not likely a primary
   driver of his altered mental status
   -Will treat for withdrawl in regards to EtOH with CIWA-_Ativan
   -Will have to do thorough evaluation for possible source of infection
   and at this time will treat aspiration penumonia and remain vigilant in
   regards to possilbe endocarditis
   -Blood cultures to be pursued
   -Thiamine/Folate in place
   2) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])-Primarily hypoxemia and
   likely aspiration
   -Will treat with Levo/Flagyl
   -Will follow up sputum cultures
   -Will have to consider carefully the role of heparin at this time and
   coordinate care with outpatient provider
   3)ATRIAL FIBRILLATION (AFIB)-
   -Dlit gtt in place
   -Will hold po
s for now
   -Will continue to wean dilt as tolerated
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-1-8**] 04:16 AM
   Prophylaxis:
   DVT: IV Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition :ICU
   Total time spent: 35

2165-01-09 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2165-1-8**] 09:41 AM
 BLOOD CULTURED - At [**2165-1-8**] 10:00 AM
   - neck not cleared due to TTP. kept in collar.  Plan to CT or MR neck
   on floor
   - final CTA neg PE, stopped Heparin gtt
   - did not address code status or start PO meds because still aggitated,
   not taking PO
   -scored 21 on CIWA around 9pm, gave additional 2mg ativan and increased
   to Q1H, then gave 2mg at 11pm and 3am; saw spiders on the wall this am
   and was given more
   -?need s/s eval per nursing
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2165-1-8**] 12:12 PM
   Metronidazole - [**2165-1-9**] 02:11 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2165-1-9**] 05:30 AM
   Other medications:
   Acetaminophen 3. Citalopram Hydrobromide 4. Diltiazem 5. Diltiazem 6.
   Lansoprazole Oral Disintegrating Tab
   7. Levofloxacin 8. Lorazepam 9. Lorazepam 10. Magnesium Sulfate 11.
   Metoprolol Tartrate 12. MetRONIDAZOLE (FLagyl)
   13. Multivitamins 14. Potassium Chloride 15. Sodium Chloride 0.9% Flush
   Changes to medical and family history: pt states seized 4 years ago due
   to etoh w/d
   Review of systems is unchanged from admission except as noted below
   Review of systems: no CP, SOB, no hallucinations
   Flowsheet Data as of  [**2165-1-9**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.1
   HR: 111 (86 - 112) bpm
   BP: 132/85(97) {111/54(80) - 160/115(120)} mmHg
   RR: 36 (19 - 38) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,409 mL
                                                                    162 mL
   PO:
             TF:
   IVF:
                                                                  2,409 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                    290 mL
   Urine:
                                                                  2,335 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     74 mL
                                                                   -128 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   GEN: tremulous voice, NA resp distress, alert and ox3 (year only), in
   spine collar
   HEENT: pupils mildly constricted
   CV: irregularly irregular nl s1/s2
   Pulm: cta b/l from ant
   Abd: +BS, soft, NT ND
   Ext: no edema, warm
   Labs / Radiology
   116 K/uL
   12.6 g/dL
   116 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.4 mEq/L
   14 mg/dL
   108 mEq/L
   138 mEq/L
   38.2 %
   9.2 K/uL
        [image002.jpg]
                            [**2165-1-7**]  10:29 PM
                             [**2165-1-8**]  04:27 AM
                             [**2165-1-8**]  03:00 PM
                             [**2165-1-9**]  04:27 AM
   WBC
   12.6
   9.2
   Hct
   38.4
   38.2
   Plt
   164
   116
   Cr
   0.7
   0.7
   0.6
   TCO2
   27
   Glucose
   160
   128
   116
   Other labs: PT / PTT / INR:12.9/24.2/1.1, ALT / AST:129/338, Alk Phos /
   T Bili:108/0.2, Differential-Neuts:79.1 %, Band:10.0 %, Lymph:15.0 %,
   Mono:5.6 %, Eos:0.2 %, LDH:390 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.7 mg/dL
   Imaging: [**2165-1-7**] CTA chest: No PE, no dissection. RLL segmental
   bronchi not well seen, may be occluded due to secretions/mucus plug.
   RLL atelectasis/collapse spares superior
   segment. L basilar atelectasis. Posterior RUL (3:50) ill defined
   opacity -
   atelectasis vs infection.
   Microbiology: urine ctx pending [**1-7**]
   blood ctx pending [**1-7**], [**1-8**]
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 .H/O CERVICAL INJURY, OTHER (INCLUDING LIGAMENTOUS, SUSPECTED INJURY
   REQUIRING COLLAR)
 ALCOHOL ABUSE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ATRIAL FIBRILLATION (AFIB)
   58 yo male with history of recent C5 spinous process fracture, atrial
   fibrillation, PEs, and tricuspid valve endocarditis admitted for a fib
   with RVR, respiratory distress and EtOH intoxication.
   .
   #.  Altered mental Status/ETOH abuse: Likely EtOH intoxication now
   progressing to withdrawal.  Patient requiring q3H CIWA currently. Hold
   suboxone as unclear if the patient is taking as prescribed given tox
   screen negative for opiates and can complicate respiratory status.
   Will encourage admission to detox facility on discharge.    Will need
   s/s before starts eating.
   - continue CIWA Q1H with ativan
   - All meds IV for now, patient NPO as unable to protect airway
   -recheck LFTs
   -add Thiamine IVF X3 days
   .
   #.  Respiratory Distress:  The patient has a history of prolonged
   hospitalization for respiratory distress following similar
   presentation, requiring intubation and ultimately tracheostomy.  Most
   likely the patient's cause for respiratory distress is intoxication
   causing a possible aspiration event, in conjuction with oversedation
   from EtOH and benzo administration.  CXR also shows infiltrate versus
   atelectasis. PE seems less likely given  read of CTA and clinical
   context so heparin gtt stopped.  Pt now with decreasing oxygen
   requirements, on RA.
   - empiric tx with levo/flagyl for aspiration pneumonia, currently day
   2/likely 7 day course
   .
   #Fever: Most likely related to aspiration event in the context of
   sedation/intoxication.  Differential includes aspiration pneumonitis
   versus pneumonia versus occult source of fever.  Patient does have a
   history of tricuspid valve endocarditis.
   -Continue empiric tx with levo/flagyl
   -f/u cultures
   -send cdiff once has BM
   -consider TTE to evaluate tricuspid valve if patient worsens clinically
   or culture is positive
   .
   #.  Atrial Fibrillation:  Periodically in RVR overnight on admission,
   requiring IV bolus of diltiazem in conjunction with drips.  Most likely
   was in rapid ventricular response secondary to increased catecholamine
   surge from either intoxication, infection or hypoxia.  Will treat
   underlying disorders as outlined.
   - Monitor on telemetry
   - wean dilt drip as tolerated
   - start home regimen of metoprolol and dilt when able to take PO
   .
   #.  Hepatitis:  Likely secondary to alcohol given AST to ALT ratio in
   addition to Hep C.  The patient has a tremor at baseline, but has
   preserved synthetic function.  Will avoid long acting benzos and other
   hepatotoxic medications.  Monitor for signs of decompensation.
   .
   # Hx of PE:  seems that anticoagulation stopped as outpatient due to
   elevated INR, patient with recurrent etoh abuse and falls
   -SC Heparin for pphx.
   .
   #.  History of C diff colitis:  Maintain precautions.  Monitor for
   diarrhea.
   .
   #   C5 spinous process fracture:  No acute issues.  Will need CT or MRI
   to clear.
   .
   #.  Depression:  Continue citalopram when can take PO.  Hold quetiapine
   for now as can worsen sedation.
   .
   FEN:  NPO for now given inability to protect airway, replete lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-1-8**] 04:16 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 1968**] [**Name (NI) **], sister [**Telephone/Fax (1) 8013**]
   Code status: Full code
   Disposition: ICU for now

2165-01-09 11:07:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   EtOH Intoxication
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2165-1-8**] 09:41 AM
 BLOOD CULTURED - At [**2165-1-8**] 10:00 AM
   CIWA at 21 and visual hallucinations overnight requiring recurrent
   ativan dosing
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2165-1-8**] 12:12 PM
   Metronidazole - [**2165-1-9**] 09:00 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2165-1-9**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.7
   Cardiovascular: Tachycardia, transient
   Respiratory: Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-1-9**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.2
   HR: 89 (86 - 112) bpm
   BP: 134/89(99) {121/54(80) - 160/115(120)} mmHg
   RR: 25 (19 - 38) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.6 kg (admission): 77.8 kg
             Total In:
                                                                  2,409 mL
                                                                    476 mL
   PO:
             TF:
   IVF:
                                                                  2,409 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                    620 mL
   Urine:
                                                                  2,335 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     74 mL
                                                                   -144 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, C-Collar in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.6 g/dL
   116 K/uL
   116 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.4 mEq/L
   14 mg/dL
   108 mEq/L
   138 mEq/L
   38.2 %
   9.2 K/uL
        [image002.jpg]
                            [**2165-1-7**]  10:29 PM
                             [**2165-1-8**]  04:27 AM
                             [**2165-1-8**]  03:00 PM
                             [**2165-1-9**]  04:27 AM
   WBC
   12.6
   9.2
   Hct
   38.4
   38.2
   Plt
   164
   116
   Cr
   0.7
   0.7
   0.6
   TCO2
   27
   Glucose
   160
   128
   116
   Other labs: PT / PTT / INR:12.9/24.2/1.1, ALT / AST:129/338, Alk Phos /
   T Bili:108/0.2, Differential-Neuts:79.1 %, Lymph:15.0 %, Mono:5.6 %,
   Eos:0.2 %, LDH:390 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Fluid analysis / Other labs: AG-11
   Imaging: CT-no PE, RUL Pneumonia, RLL atelectasis, fatty liver
   CXR-
   Assessment and Plan
   Patient with history of alcohol abuse now admitted with acute alcohol
   intoxication and significant altered mental status.  This was
   accompanied by some significant concern for cough, hypoxia and possible
   pneumonia with aspiration as source being most likely cause.  Admission
   is complicated by atrial fibrillation.
   1) ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   -Ativan as needed
   -Thiamine/Folate/MVI
   -Is entering critical phase of withdrawl process
   -Does have history of seizures with withdrawl in past
   2)Pneumonia
   -levo/flagyl to continue
   -RLL pneumonia seen
   3)Atrial Fibrillation
   Diltiazem to continue IV
   -Will not continue anticoagulation given risk
   -Have been able to wean off of IV dilt
   ICU Care
   Nutrition: PO as tolerated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2165-1-8**] 04:16 AM
   Prophylaxis:
   DVT: SQ UF Heparin
he has significant risk for bleeding given history
   and not able to safely maintain ongoing systemic anticoagulation
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor with stable CIWA dosing and patient able
   to tolerate po intake
   Total time spent: 40

2165-01-10 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2165-1-9**] 07:00 PM
 STOOL CULTURE - At [**2165-1-9**] 07:24 PM
 BLOOD CULTURED - At [**2165-1-9**] 08:38 PM
   -Temp of 100.6 at 4pm, sent blood cx
   - LFTs down, except Bili is slightly up (1.7) so ordered RUQ ultrasound
   which preliminarily showed just fatty liver
   - Having Aflutter with HR in 150's and hypertensive with diastolics in
   the low 100's, increased Dilt drip to 15, gave extra 5mg IV Dilt with
   good effect (HR decreased to 100, BP to 130's/90's)
   - Ortho recs: Pt too confused to clear spine.  Await better mental
   status.  Once more appropriate, can clear clinically.  If still has
   symptoms at that time, will need additional imaging.
   - Sent CK because urine looked a little pink, came back at 257, also
   looked a little dry so gave 1L NS and UOP picked up nicely
   This AM, denies pain, dizziness, hallucinations.   Perseverating and
   difficult to understand speech.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2165-1-9**] 11:29 AM
   Metronidazole - [**2165-1-10**] 02:17 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2165-1-9**] 08:00 AM
   Diltiazem - [**2165-1-9**] 02:50 PM
   Heparin Sodium (Prophylaxis) - [**2165-1-10**] 03:46 AM
   Lorazepam (Ativan) - [**2165-1-10**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-10**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
F) at 4 pm
   Tcurrent: 37.1
C (98.7
   HR: 84 (84 - 170) bpm
   BP: 147/94(107) {118/84(91) - 155/117(121)} mmHg
   RR: 30 (25 - 44) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.6 kg (admission): 77.8 kg
             Total In:
                                                                  3,109 mL
                                                                    393 mL
   PO:
             TF:
   IVF:
                                                                  3,109 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    870 mL
   Urine:
                                                                  1,815 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,294 mL
                                                                   -477 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   Gen: Oriented to person and place, NAD, lying comfortably in bed
   HEENT: C collar in place, NCAT, dry mucous membranes, OP clear
   CV: irregularly irregular, nl S1, S2, no m/r/g
   Pulm: rhonchi that clear with cough (anterior exam only)
   Abd: +BS, soft, NT, ND
   Extrem: no c/c/e, 2+ DP pulses
   Neuro: tremor improved from prior exams, no asterixis
   Labs / Radiology
   142 K/uL
   13.2 g/dL
   101 mg/dL
   0.6 mg/dL
   17 mEq/L
   3.7 mEq/L
   11 mg/dL
   103 mEq/L
   135 mEq/L
   40.3 %
   7.6 K/uL
        [image002.jpg]
                            [**2165-1-7**]  10:29 PM
                             [**2165-1-8**]  04:27 AM
                             [**2165-1-8**]  03:00 PM
                             [**2165-1-9**]  04:27 AM
                             [**2165-1-10**]  03:38 AM
   WBC
   12.6
   9.2
   7.6
   Hct
   38.4
   38.2
   40.3
   Plt
   164
   116
   142
   Cr
   0.7
   0.7
   0.6
   0.6
   TCO2
   27
   Glucose
   160
   128
   116
   101
   Other labs: PT / PTT / INR:14.3/27.8/1.2, CK / CKMB / Troponin-T:82//,
   ALT / AST:152/455, Alk Phos / T Bili:112/2.3, Differential-Neuts:75.4
   %, Band:10.0 %, Lymph:18.0 %, Mono:5.8 %, Eos:0.4 %, LDH:518 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   BCx [**1-7**], [**1-8**], [**1-9**] pending
   U Cx [**1-8**] neg (final)
   C diff [**1-9**] neg
   Liver U/S prelim:
   Fatty infiltration of the liver. No intra- or extra-hepatic biliary
   ductal
   dilation. Normal gallbladder. The study is limited by motion as the
   patient
   was unable to hold his breath.
   No CXR this AM
   Assessment and Plan
   58 yo male with history of recent C5 spinous process fracture, atrial
   fibrillation, PEs, and tricuspid valve endocarditis admitted for a fib
   with RVR, respiratory distress and EtOH intoxication/withdrawal.
   .
   #.  Altered mental Status/ETOH abuse: Likely EtOH intoxication now
   progressing to withdrawal.  Patient requiring q2-3H CIWA currently.
   Hold suboxone as unclear if the patient is taking as prescribed given
   tox screen negative for opiates and can complicate respiratory status.
   Will encourage admission to detox facility on discharge.    Will need
   s/s before starts eating.
   - Will space out CIWA to q4h (has been [**Doctor Last Name 2110**] 5 overnight, 12 this AM)
   -MVI and thiamine
   .
   #.  Hepatitis:  Likely secondary to alcohol given AST to ALT ratio in
   addition to Hep C.  The patient has a tremor at baseline, but has
   preserved synthetic function.  LFTs on the rise today, possibly a
   result of alcoholic hepatitis in conjunction with ativan
   administration.
   -continue to monitor lfts
   -hepatitis serologies
   #.  Respiratory Distress:  The patient has a history of prolonged
   hospitalization for respiratory distress following similar
   presentation, requiring intubation and ultimately tracheostomy.  Most
   likely the patient's cause for respiratory distress is intoxication
   causing a possible aspiration event, in conjuction with oversedation
   from EtOH and benzo administration.  CXR also shows infiltrate versus
   atelectasis. PE seems less likely given  read of CTA and clinical
   context so heparin gtt stopped.  Pt now with decreasing oxygen
   requirements, on RA.
   - Pt had been receiving levo/flagyl for aspiration pneumonia; will stop
   flagyl and continue Levofloxacin (day [**4-14**])
   .
   #Fever: Most likely related to aspiration event in the context of
   sedation/intoxication.  Differential includes aspiration pneumonitis
   versus pneumonia versus occult source of fever.  Patient does have a
   history of tricuspid valve endocarditis. C diff neg
   -Continue empiric tx with levo
   -f/u cultures
   -consider TTE to evaluate tricuspid valve if patient worsens clinically
   or blood culture is positive
   .
   #.  Atrial Fibrillation:  Periodically in RVR overnight on admission,
   requiring IV bolus of diltiazem in conjunction with drips.  Most likely
   was in rapid ventricular response secondary to increased catecholamine
   surge from either intoxication, infection or hypoxia.  Will treat
   underlying disorders as outlined.
   - Monitor on telemetry
   - restart PO metoprolol and diltiazem and stop dilt drip
   .
   # Hx of PE:  seems that anticoagulation stopped as outpatient due to
   elevated INR, patient with recurrent etoh abuse and falls
   -SC Heparin for pphx.
   .
   #   C5 spinous process fracture:  No acute issues.  Will need CT or MRI
   to clear.
   - f/u ortho spine recs now that patient more awake and conversant
   #.  History of C diff colitis:  Maintain precautions.  Monitor for
   diarrhea.
   .
   .
   #.  Depression:  Continue citalopram when can take PO.  Hold quetiapine
   for now as can worsen sedation.
   .
   ICU Care
   Nutrition: Clears with meds for now, will advance as tolerated
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-1-8**] 04:16 AM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments: Sister
   [**Name (NI) 156**] status: Full code
   Disposition: [**Hospital Unit Name 4**] for now, possible call out in PM

2165-01-10 11:34:00 Physician Attending Progress Note
Chief Complaint: EtOH intoxication
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2165-1-9**] 07:00 PM
 STOOL CULTURE - At [**2165-1-9**] 07:24 PM
 BLOOD CULTURED - At [**2165-1-9**] 08:38 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2165-1-9**] 11:29 AM
   Metronidazole - [**2165-1-10**] 02:17 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2165-1-9**] 02:50 PM
   Heparin Sodium (Prophylaxis) - [**2165-1-10**] 03:46 AM
   Omeprazole (Prilosec) - [**2165-1-10**] 08:49 AM
   Lorazepam (Ativan) - [**2165-1-10**] 08:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2165-1-10**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.8
C (98.2
   HR: 90 (84 - 170) bpm
   BP: 132/93(102) {118/84(91) - 155/117(121)} mmHg
   RR: 33 (25 - 44) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.6 kg (admission): 77.8 kg
             Total In:
                                                                  3,109 mL
                                                                    651 mL
   PO:
             50 mL
   TF:
   IVF:
                                                                  3,109 mL
                                                                    601 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                  1,380 mL
   Urine:
                                                                  1,815 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,294 mL
                                                                   -729 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Neck Collar in Place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Improved asterixis
   Labs / Radiology
   13.2 g/dL
   142 K/uL
   101 mg/dL
   0.6 mg/dL
   17 mEq/L
   3.7 mEq/L
   11 mg/dL
   103 mEq/L
   135 mEq/L
   40.3 %
   7.6 K/uL
        [image002.jpg]
                            [**2165-1-7**]  10:29 PM
                             [**2165-1-8**]  04:27 AM
                             [**2165-1-8**]  03:00 PM
                             [**2165-1-9**]  04:27 AM
                             [**2165-1-10**]  03:38 AM
   WBC
   12.6
   9.2
   7.6
   Hct
   38.4
   38.2
   40.3
   Plt
   164
   116
   142
   Cr
   0.7
   0.7
   0.6
   0.6
   TCO2
   27
   Glucose
   160
   128
   116
   101
   Other labs: PT / PTT / INR:14.3/27.8/1.2, CK / CKMB / Troponin-T:82//,
   ALT / AST:152/455, Alk Phos / T Bili:112/2.3, Differential-Neuts:75.4
   %, Lymph:18.0 %, Mono:5.8 %, Eos:0.4 %, LDH:518 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Fluid analysis / Other labs: AG-15
   Imaging: Ultrasound--fatty infiltration no CBD dilation
   Microbiology: C. Diff--negative
   Assessment and Plan
   58 yo male with history of A-fib and PE now admitted with acute EtOH
   intoxication.  He is now >72 hours into course and has had improved
   mental status but is complicated by recurrent tachycardia.
   1)EtOH intoxication and withdrawl-
   -MVI/Thiamine
   _return to supervised po intake
   2)Atrial Fibrillation-
   -Dilt PO
   -Dilt gtt is off
   3)Pneumonia-
   -Levoflox/Flagyl
   4)Liver Enzymes Elevation-_Concerning increase in all liver associated
   enzymes including bilirubin.  We do have reassuring ultrasound
   -Will move to hepatitis pannel
   -Will hold Tylenol
   -Will need to follow up with hepatology based on findings
   ICU Care
   Nutrition: po intake to start
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-1-8**] 04:16 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To Floor
   Total time spent: 35

2165-01-11 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -stopped dilt drip,  now on home meds
   -stopped flagyl, continued levo
   - hep serologies sent
   Yesterday, decreased CIWA to Q4H, patient did find until evening shift,
   when he became more agitated, trying to get out of bed constantly.
   CIWAs went up to teens and pt needed Ativan 1 mg x 3.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2165-1-10**] 02:17 AM
   Levofloxacin - [**2165-1-10**] 12:22 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2165-1-10**] 08:06 AM
   Lorazepam (Ativan) - [**2165-1-10**] 08:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-1-11**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 87 (70 - 92) bpm
   BP: 154/85(101) {91/65(78) - 154/99(107)} mmHg
   RR: 26 (17 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.6 kg (admission): 77.8 kg
   Height: 70 Inch
                  Total In:
                                                                  1,145 mL
                  PO:
                                                                    220 mL
                  TF:
   IVF:
                                                                    925 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    190 mL
   Urine:
                                                                  1,650 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -505 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Gen: Somnolent, Oriented to person and place, slightly more interactive
   than prior exams
   HEENT: C collar in place, OP clear, dry mucous membranes
   CV: RRR, nl S1, S2, no m/r/g
   Pulm: Rhonchi that clear with cough, otherwise CTAB
   Abd: soft, NT, ND, +BS
   Extem: no c/c/e, 2+ DP pulses
   Labs / Radiology
   182 K/uL
   13.2 g/dL
   100 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.3 mEq/L
   21 mg/dL
   105 mEq/L
   136 mEq/L
   38.5 %
   5.9 K/uL
        [image002.jpg]
                            [**2165-1-7**]  10:29 PM
                             [**2165-1-8**]  04:27 AM
                             [**2165-1-8**]  03:00 PM
                             [**2165-1-9**]  04:27 AM
                             [**2165-1-10**]  03:38 AM
                             [**2165-1-11**]  04:00 AM
   WBC
   12.6
   9.2
   7.6
   5.9
   Hct
   38.4
   38.2
   40.3
   38.5
   Plt
   164
   116
   142
   182
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   27
   Glucose
   160
   128
   116
   101
   100
   Other labs: PT / PTT / INR:13.7/26.5/1.2, CK / CKMB / Troponin-T:34//,
   ALT / AST:130/255, Alk Phos / T Bili:103/1.6, Differential-Neuts:75.4
   %, Band:10.0 %, Lymph:18.0 %, Mono:5.8 %, Eos:0.4 %, LDH:518 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Hepatitis serologies pending
   BCx [**1-7**], [**1-8**], [**1-9**] pending
   U Cx [**1-8**] neg
   C diff [**1-9**] neg
   RUQ U/S final read:
   IMPRESSION:
   1. Limited study due to motion as the patient was unable to hold his
   breath.
   2. Echogenic liver compatible with fatty infiltration.
   3. No intra- or extra-hepatic ductal dilation.
   4. Normal gallbladder.
   No CXR this AM
   Assessment and Plan
   58 yo male with history of recent C5 spinous process fracture, atrial
   fibrillation, PEs, and tricuspid valve endocarditis admitted for a fib
   with RVR, respiratory distress and EtOH intoxication/withdrawal.
   .
   #.  Altered mental Status/ETOH abuse: Likely EtOH intoxication now
   progressing to withdrawal.  Patient requiring q4h CIWA currently. Hold
   suboxone as unclear if the patient is taking as prescribed given tox
   screen negative for opiates and can complicate respiratory status.
   Will encourage admission to detox facility on discharge.    Will need
   s/s before starts eating.
   - Will continue CIWA at q4h (has been [**Doctor Last Name 2110**] teens)
   -MVI and thiamine
   .
   #.  Hepatitis:  Likely secondary to alcohol given AST to ALT ratio in
   addition to Hep C.  The patient has a tremor at baseline, but has
   preserved synthetic function.  LFTs trending down today.
   -continue to monitor lfts
   -f/u hepatitis serologies
   #.  Respiratory Distress:  The patient has a history of prolonged
   hospitalization for respiratory distress following similar
   presentation, requiring intubation and ultimately tracheostomy.  Most
   likely the patient's cause for respiratory distress is intoxication
   causing a possible aspiration event, in conjuction with oversedation
   from EtOH and benzo administration.  CXR also shows infiltrate versus
   atelectasis. PE seems less likely given  read of CTA and clinical
   context so heparin gtt stopped.  Pt now with decreasing oxygen
   requirements, on RA.
   - Pt had been receiving levo/flagyl for aspiration pneumonia; will stop
   flagyl and continue Levofloxacin (day [**5-15**])
   .
   #Fever: Most likely related to aspiration event in the context of
   sedation/intoxication.  Differential includes aspiration pneumonitis
   versus pneumonia versus occult source of fever.  Patient does have a
   history of tricuspid valve endocarditis. C diff neg
   -Continue empiric tx with levo
   -f/u cultures
   -consider TTE to evaluate tricuspid valve if patient worsens clinically
   or blood culture is positive
   .
   #.  Atrial Fibrillation:  Periodically in RVR overnight on admission,
   requiring IV bolus of diltiazem in conjunction with drips.  Most likely
   was in rapid ventricular response secondary to increased catecholamine
   surge from either intoxication, infection or hypoxia.  Will treat
   underlying disorders as outlined.
   - Monitor on telemetry
   - Continue PO metoprolol and diltiazem
   .
   #   C5 spinous process fracture:  No acute issues.  Will need CT or MRI
   to clear.
   - f/u ortho spine recs now that patient more awake and conversant
   .
   # Hx of PE:  seems that anticoagulation stopped as outpatient due to
   elevated INR, patient with recurrent etoh abuse and falls
   -SC Heparin for ppx.
   .
   #.  History of C diff colitis:  Maintain precautions.  Monitor for
   diarrhea.
   .
   .
   #.  Depression:  Continue citalopram when can take PO.  Hold quetiapine
   for now as can worsen sedation.
   ICU Care
   Nutrition: Regular soft diet with thin liquids
   Glycemic Control:
   Lines:
   22 Gauge - [**2165-1-11**] 01:07 AM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer:  lansoprazole
   VAP:
   Comments:
   Communication:  Comments: sister
   [**Name (NI) 156**] status: Full code
   Disposition: Callout to floor with sitter (although patient currently
   threatening to leave hospital AMA)

2165-01-11 09:08:00 Physician Attending Progress Note
Chief Complaint: Alcohol Intoxication
   Pneumonia
   Atrial Fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -CIWA to q 4 hours
   -Only 3 mg Ativan overnight by CIWA
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2165-1-10**] 02:17 AM
   Levofloxacin - [**2165-1-10**] 12:22 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2165-1-11**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.9
C (96.7
   HR: 94 (70 - 94) bpm
   BP: 112/81(88) {91/65(78) - 154/106(117)} mmHg
   RR: 27 (17 - 35) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 76.6 kg (admission): 77.8 kg
   Height: 70 Inch
                  Total In:
                                                                  1,145 mL
                  PO:
                                                                    220 mL
                  TF:
   IVF:
                                                                    925 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    290 mL
   Urine:
                                                                  1,650 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -505 mL
                                                                   -290 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, Place, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.2 g/dL
   182 K/uL
   100 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.3 mEq/L
   21 mg/dL
   105 mEq/L
   136 mEq/L
   38.5 %
   5.9 K/uL
        [image002.jpg]
                            [**2165-1-7**]  10:29 PM
                             [**2165-1-8**]  04:27 AM
                             [**2165-1-8**]  03:00 PM
                             [**2165-1-9**]  04:27 AM
                             [**2165-1-10**]  03:38 AM
                             [**2165-1-11**]  04:00 AM
   WBC
   12.6
   9.2
   7.6
   5.9
   Hct
   38.4
   38.2
   40.3
   38.5
   Plt
   164
   116
   142
   182
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   27
   Glucose
   160
   128
   116
   101
   100
   Other labs: PT / PTT / INR:13.7/26.5/1.2, CK / CKMB / Troponin-T:34//,
   ALT / AST:130/255, Alk Phos / T Bili:103/1.6, LDH:518 IU/L, Ca++:8.7
   mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: U/S--Fatty Liver
   Assessment and Plan
   58 yo male with admission with acute alcohol intoxication in the
   setting of likely aspiration event resulting in pneumonia.  He has had
   slow improvement in mental status across time but still, in the setting
   of active withdrawl, well managed with CIWA and use of Lorazepam, does
   have some intermittent confusion.
   1) PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -Will continue antibiotics
   2)ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   -Continue CIWA
   -Will follow LFT's and hepatitis pannel but do suspect a component of
   alcoholic
   3) ATRIAL FIBRILLATION (AFIB)-
   -Move to pO medications
   -Will hope for continued good rate control
   ICU Care
   Nutrition: PO intake
   Glycemic Control:
   Lines:
   22 Gauge - [**2165-1-11**] 01:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Patient understands the risks and benefits of
   continued treatment but states he wishes to leave against medical
   advice.  He understands the risks of continued uncontrolled alcohol
   withdrawl and partially treated pneumonia which include death but still
   states that he wishes to leave the hosptial against medical advice and
   that there is nothing that can be offered or done to convince him to
   stay in the hospital.
   Code status: Full code
   Disposition : TO Floor
   Total time spent: 40